US05037990
5-{4-[2-(4-Chlorobenzenesulphonamido)-ethyl]-phenylmethyl}-1H-tetrazole
4.62 g. (13.8 mMol) 4-[2-(4-chlorobenzenesulphonamido)-ethyl]-phenylacetonitrile, 2.94 g. (21.3 mMol) triethylammonium chloride and 2.77 g. (42.6 mMol) sodium azide in 150 ml. 1-methylpyrrolidone are heated to 150° C. for 6 hours. The 1-methylpyrrolidone is subsequently distilled off in a high vacuum at 80° to 90° C., the residue is dissolved in dilute aqueous sodium hydroxide solution and extracted three times with ethyl acetate. The aqueous phase is acidified with hydrochloric acid, also extracted three times with ethyl acetate, the extracts are dried over anhydrous sodium sulphate and, after treating with active charcoal, evaporated to dryness. The residue is taken up in an aqueous solution of sodium hydrogen carbonate, extracted with ethyl acetate and acidified, the product thereby crystallising out. There is obtained 1.5 g. (29% of theory) of the title compound in the form of colourless crystals; m.p. 168°-169° C.

reactant | 4-[2-(4-chlorobenzenesulphonamido)-ethyl]-phenylacetonitrile | 13.8 mMol | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)CC#N | C16H15ClN2O2S
reactant | triethylammonium chloride | 21.3 mMol | [Cl-].C(C)[NH+](CC)CC
reactant | sodium azide | 42.6 mMol | [N-]=[N+]=[N-].[Na+]
solvent | 1-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 5-{4-[2-(4-Chlorobenzenesulphonamido)-ethyl]-phenylmethyl}-1H-tetrazole | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)CC1=NN=NN1 | C16H16ClN5O2S
